US08431563B2
A mixture of (R)-(1,4-dibenzylpiperazin-2-yl)methanol (4.00 g, 13.49 mmol, US2007/0088039) and Hünig's base (2.35 mL, 13.49 mmol) in CH2Cl2 (27 mL) was stirred at 0° C. and methanesulfonyl chloride (1.04 mL, 13.49 mmol) was added drop-wise. The reaction mixture was filtered through a short pad of silica gel, using 19:1 CH2Cl2/Et2O (1000 mL) to rinse. The filtrate was concentrated in vacuo while maintaining the temperature below 25° C. Diethyl ether was added to the residue, the resulting slurry was placed in a sonicator for 1 min, filtered through a fitted funnel and the filtrate was concentrated to give a white solid ((2R)-1,4-dibenzyl-2-piperazinyl)methyl methanesulfonate (4.42 g).

reactant | (R)-(1,4-dibenzylpiperazin-2-yl)methanol | 13.49 mmol, 4.00 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CO | C19H24N2O
reactant | Hünig's base | 13.49 mmol, 2.35 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 13.49 mmol, 1.04 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 27 mL | C(Cl)Cl | CH2Cl2
product | ((2R)-1,4-dibenzyl-2-piperazinyl)methyl methanesulfonate | 4.42 g | CS(=O)(=O)OC[C@@H]1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C20H26N2O3S
